US07582771B2
Dichlorobis(triphenylphosphine)palladium (II) (43 g, 0.061 mol), copper (I) iodide (20.2 g, 0.106 mol), and triethylamine (782 g, 7.74 mol) is added to a stirred mixture of N-(4-Chloro-2-iodophenyl)-2,2,2-trifluoroacetamide (1800 g, 5.15 mol) and tetrahydrofuran (1.80 L). A solution of 2-(but-3-ynyl)-1H-isoindole-1,3(2H)-dione (1098 g, 5.51 mol) and tetrahydrofuran (11 L) is added to the reaction mixture slowly over 6 hours, maintaining a reaction temperature of 30° C. The reaction mixture is allowed to stir at room temperature overnight. The reaction mixture is filtered under reduced pressure and the triethylammonium iodide cake is washed with tetrahydrofuran (2×550 mL). The filtrate is concentrated under reduced pressure to a volume of less than 6 L, and N,N-dimethylformamide (8 L) is added to the residue. The mixture is concentrated until tetrahydrofuran is removed. Piperidine (535 g, 6.29 mol) is added to the mixture. The mixture is stirred and warmed to 100° C. The mixture is maintained at 100° C. until the product/starting material ratio is >97/3. The mixture is cooled to 32° C. Water (4.2 L) is added to the stirred mixture over >100 min, allowing the temperature of the mixture to rise to 45° C. The mixture is cooled (0-5° C.). The product is collected by filtration and dried to give 2-[2-(5-Chloro-1H-indol-2-yl)-ethyl]-isoindole-1,3-dione (1173 g, 73%, 98.1% purity, largest single impurity 1.2%. 1H NMR (DMSO-d6): δ11.35 (s, 1H), 7.83 (m, 4H), 7.41 (d, 1H, J=2.0 Hz), 7.29 (d, 1H, J=8.6 Hz), 6.99 (dd, 1H, J=2.0, 8.6 Hz), 3.94 (t, 2H, J=7.1 Hz), 3.08 (t, 2H, J=7.1 Hz).

reactant | triethylamine | 7.74 mol, 782 g | C(C)N(CC)CC | C6H15N
reactant | N-(4-Chloro-2-iodophenyl)-2,2,2-trifluoroacetamide | 5.15 mol, 1800 g | ClC1=CC(=C(C=C1)NC(C(F)(F)F)=O)I | C8H4ClF3INO
reactant | 2-(but-3-ynyl)-1H-isoindole-1,3(2H)-dione | 5.51 mol, 1098 g | C(CC#C)N1C(C2=CC=CC=C2C1=O)=O | C12H9NO2
reactant | Piperidine | 6.29 mol, 535 g | N1CCCCC1 | C5H11N
catalyst | Dichlorobis(triphenylphosphine)palladium | 0.061 mol, 43 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.106 mol, 20.2 g | [Cu]I
solvent | Water | 4.2 L | O | H2O
solvent | tetrahydrofuran | 11 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.80 L | O1CCCC1 | C4H8O
product | 2-[2-(5-Chloro-1H-indol-2-yl)-ethyl]-isoindole-1,3-dione | ClC=1C=C2C=C(NC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C18H13ClN2O2
